* source WRAPPERPART1
R_Osc_R3         Osc_N03025 N00025  330 TC=0,0 
R_Osc_R4         0 Osc_N02983  330 TC=0,0 
C_Osc_C2         0 Osc_N02983  4.7n  TC=0,0 
R_Osc_R2         0 Osc_N02857  1k TC=0,0 
X_Osc_U1         Osc_N02983 Osc_N02857 N01330 N01342 N00025 OP-27
C_Osc_C1         Osc_N02983 Osc_N03025  4.7n  TC=0,0 
R_Osc_R1         Osc_N02857 N00025  2.2k TC=0,0 
R_Modulator_R1         N01044 Modulator_N00912  10k TC=0,0 
R_Modulator_Rf         Modulator_N00912 Modulator_N00920  10k TC=0,0 
R_Modulator_R2         N00025 Modulator_N00912  20k TC=0,0 
X_Modulator_U1         0 Modulator_N00912 N01330 N01342 Modulator_N00920 OP-27
D_Modulator_D1         Modulator_N00920 N01069 D1N914 
V_V1         N01044 0  AC 0V
+SIN 0V 1V 2KHz 0 0 0
X_BPF_U1         0 BPF_N00213 N01330 N01342 N01561 OP-27
R_BPF_R1         BPF_N00213 N01561  1k TC=0,0 
R_BPF_R2         0 BPF_N00227  1k TC=0,0 
R_BPF_R3         BPF_N00227 N01044  1k TC=0,0 
C_BPF_C1         BPF_N00227 BPF_N00213  1n  TC=0,0 
C_BPF_C2         BPF_N00227 N01561  1n  TC=0,0 
V_V+         N01330 0 15Vdc
V_V-         0 N01342 15Vdc
R_R1         0 N01069  1k TC=0,0 
